US05252601
Step d1 : N-[[2-(Mercaptomethyl)-2,3-dihydro-1H-indene-2-yl]carbonyl]-glycine, benzyl ester
Dissolve N-[[2-[[(t-butyl)thio]methyl]-2,3-dihydro-1H-indene-2-yl]carbonyl]-glycine, benzyl ester (262 mg, 0.64 mmol) in trifluoroacetic acid (3 mL) and add excess anisole followed by mercuric acetate (203 mg, 0.64 mmol). Stir at room temperature for 18 hours then treat with gaseous hydrogen sulfide. Partition the mixture between methylene chloride/water (150 mL). Separate the organic phase and wash with dilute brine. Dry (MgSO4) and evaporate the solvent in vacuo to give a clear oil. Purify by silica gel chromatography (30% ethyl acetate/hexane) to give the title compound as a crystalline solid (213 mg, 94%); mp 92°-93° C. (methylene chloride/hexane).

reactant | N-[[2-[[(t-butyl)thio]methyl]-2,3-dihydro-1H-indene-2-yl]carbonyl]-glycine, benzyl ester | 0.64 mmol, 262 mg | C(C)(C)(C)SCC1(CC2=CC=CC=C2C1)C(=O)NCC(=O)OCC1=CC=CC=C1 | C24H29NO3S
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | hydrogen sulfide | S | H2S
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-[[2-(Mercaptomethyl)-2,3-dihydro-1H-indene-2-yl]carbonyl]-glycine, benzyl ester | 213 mg, 94% | SCC1(CC2=CC=CC=C2C1)C(=O)NCC(=O)OCC1=CC=CC=C1 | C20H21NO3S
